### PR TITLE
[Merged by Bors] - feat: continuous affine equivalences

### PR DESCRIPTION
**Pull request by grunweg**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean [hunk 1]
```diff
@@ -0,0 +1,295 @@
...
+
+open Function
+
+/-- A continuous affine equivalence between two affine topological spaces is an affine equivalence
+such that forward and inverse maps are continuous. -/
+structure ContinuousAffineEquiv (k P₁ P₂ : Type*) {V₁ V₂ : Type*} [Ring k]
+  [AddCommGroup V₁] [Module k V₁] [AddTorsor V₁ P₁] [TopologicalSpace P₁]
+  [AddCommGroup V₂] [Module k V₂] [AddTorsor V₂ P₂] [TopologicalSpace P₂] extends P₁ ≃ᵃ[k] P₂ where
+  continuous_toFun : Continuous toFun := by continuity
+  continuous_invFun : Continuous invFun := by continuity
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean:41]: Should these be:
```suggestion
  continuous_toFun : Continuous toFun := by fun_prop
  continuous_invFun : Continuous invFun := by fun_prop
```
(ask on Zulip if you're not sure either)

File: Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean [hunk 2]
```diff
@@ -0,0 +1,295 @@
...
+theorem coe_coe (e : P₁ ≃ᵃL[k] P₂) : ⇑(e : P₁ ≃ᵃ[k] P₂) = e :=
+  rfl
+
+@[simp]
+theorem coe_toEquiv (e : P₁ ≃ᵃL[k] P₂) : ⇑e.toEquiv = e :=
+  rfl
+
+-- NOTE(MR): I have omitted `coe_mk`, `coe_mk'`, `coe_inj`, `coeFn_injective` lemmas for now;
+-- happy to add them!
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean:108]: Feel free to add them but I don't think this comment is necessary
```suggestion
```

File: Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean [hunk 3]
```diff
@@ -0,0 +1,295 @@
...
+-- NOTE(MR): the next three items are cargo-culted; please review carefully if they make sense!
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean:109]: I believe what you have is correct
```suggestion
```

File: Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean [hunk 4]
```diff
@@ -0,0 +1,295 @@
...
+theorem symm_toAffineEquiv (e : P₁ ≃ᵃL[k] P₂) : e.toAffineEquiv.symm = e.symm.toAffineEquiv :=
+  rfl
+
+@[simp]
+theorem symm_toEquiv (e : P₁ ≃ᵃL[k] P₂) : e.toEquiv.symm = e.symm.toEquiv := rfl
+
+-- custom simps projections??
+
+-- bijectivity, range_eq??
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean:177]: You set up custom simps projections above, right?
```suggestion
```
Feel free to add the other missing lemmas but I don't think we should leave comments like this lying around, not least because it's too easy for them to get out of sync with the code.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/LinearAlgebra/AffineSpace/ContinuousAffineEquiv.lean:41]: Good question: as-is, this failed to prove continuity for `refl`, so I'm leaving it as-is. (But asking why would be a great follow-up question!)

**Comment by grunweg** [comment]
Thank you for the review!
bors r+

**Comment by grunweg** [comment]
CI is done (except for `lean4lean`); let's try again
bors r+
